US07902401B2
D-serine (10.5 g, 0.1 mol) was stirred with potassium carbonate (69 g, 0.5 mol), benzyl bromide (64.8 g, 0.375 mol) and water (10 mL) in acetonitrile (250 mL) at 55° C. for 24 hours. The reaction mixture was filtered and washed with ethyl acetate. The filtrate was concentrated with silica gel. The product was purified by column chromatography, eluting with 5-20% ethyl acetate in hexanes to give benzyl (2R)-2-(dibenzylamino)-3-hydroxypropanoate (33.36 g, 88%) as a pale-yellow sticky oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.20-7.44 (m, 15H), 5.27 (q, 2H), 3.91 (d, 2H), 3.80 (m, 2H), 3.67 (d, 2H), 3.63 (m, 1H) and 2.52 (dd, 1H).

reactant | D-serine | 0.1 mol, 10.5 g | N[C@H](CO)C(=O)O | C3H7NO3
reactant | potassium carbonate | 0.5 mol, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.375 mol, 64.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | benzyl (2R)-2-(dibenzylamino)-3-hydroxypropanoate | 33.36 g, 88% | C(C1=CC=CC=C1)N([C@@H](C(=O)OCC1=CC=CC=C1)CO)CC1=CC=CC=C1 | C24H25NO3
